US08629282B2
Racemic (5S*,6R*)-6-azido-5-hydroxy-5,6,7,8-tetrahydronaphthalene-2-carbonitrile (400 mg, 1.9 mmol) and hydroxylamine hydrochloride (260 mg, 3.7 mmol) were mixed in 2-propanol (7.5 mL). To this suspended solution was added sodium bicarbonate (627 mg, 7.5 mmol) and the solution was heated at reflux for 2 hr. Then the reaction mixture was cooled to room temperature and diluted by EtOAc (50 mL) and washed with water and brine. The combined aqueous layers were extracted again by EtOAc. The combined organic layers were dried (MgSO4) and concentrated to afford pure racemic (5S*,6R*,E/Z)-6-azido-N′,5-dihydroxy-5,6,7,8-tetrahydronaphthalene-2-carboximidamide (445 mg, 1.8 mmol, 96% yield).

reactant | Racemic (5S*,6R*)-6-azido-5-hydroxy-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 1.9 mmol, 400 mg | N(=[N+]=[N-])C1C(C=2C=CC(=CC2CC1)C#N)O | C11H10N4O
reactant | hydroxylamine hydrochloride | 3.7 mmol, 260 mg | Cl.NO
reactant | sodium bicarbonate | 7.5 mmol, 627 mg | C([O-])(O)=O.[Na+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | 2-propanol | 7.5 mL | CC(C)O | C3H8O
product | 6-azido-N′,5-dihydroxy-5,6,7,8-tetrahydronaphthalene-2-carboximidamide | 1.8 mmol, 445 mg, 96% yield | N(=[N+]=[N-])C1C(C=2C=CC(=CC2CC1)C(N)=NO)O | C11H13N5O2
